US08258131B2
Preparation of N-[2,2-diethyl-4-(4-fluorophenyl)-2H-1,3-benzoxazin-7-yl]methanesulfonamide
Methanesulfonyl chloride (63 μL) and pyridine (131 μL) were added dropwise to a solution of 2,2-diethyl-4-(4-fluorophenyl)-2H-1,3-benzoxazin-7-amine (a compound of Reference Example 4, 81 mg) in chloroform (5 mL), and the mixture was stirred at 40° C. overnight. The reaction mixture was purified by column chromatography on NH-silica gel (Chromatorex NH-silica gel, Solvent: chloroform/methanol=100/0 to 90/10), and the resultant powder was suspended in diisopropyl ether. The resultant precipitates were collected by filtration and washed with hexane-diisopropyl ether to give the titled compound (69 mg) as a colorless powder.

reactant | Methanesulfonyl chloride | 63 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 131 μL | N1=CC=CC=C1 | C5H5N
reactant | 2,2-diethyl-4-(4-fluorophenyl)-2H-1,3-benzoxazin-7-amine | C(C)C1(OC2=C(C(=N1)C1=CC=C(C=C1)F)C=CC(=C2)N)CC | C18H19FN2O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[2,2-diethyl-4-(4-fluorophenyl)-2H-1,3-benzoxazin-7-yl]methanesulfonamide | 69 mg | C(C)C1(OC2=C(C(=N1)C1=CC=C(C=C1)F)C=CC(=C2)NS(=O)(=O)C)CC | C19H21FN2O3S
